US09315542B2
(S)-4-Methyl-2-((S)-2-(2-morpholinoacetamido)-4-phenyl-N-((pivaloyloxy)methyl)butanamido)pentanoic acid (6)
Referring to FIG. 45, a slurry of Pd/C (10%) (200 mg) in MeOH/water (9:1) (10 mL) was added to a solution of (S)-benzyl 4-methyl-2-((S)-2-(2-morpholinoacetamido)-4-phenyl-N-((pivaloyloxy)methyl)butanamido)pentanoate (440 mg, 0.7 mmol) in MeOH (100 mL) and the suspension was stirred overnight under an atmosphere of hydrogen at RT. The reaction mixture was filtered over Celite, washed with MeOH and concentrated in vacuo to yield product (345 mg, 92%) as a colorless oil.

reactant | (S)-benzyl 4-methyl-2-((S)-2-(2-morpholinoacetamido)-4-phenyl-N-((pivaloyloxy)methyl)butanamido)pentanoate | 0.7 mmol, 440 mg | CC(C[C@@H](C(=O)OCC1=CC=CC=C1)N(C([C@H](CCC1=CC=CC=C1)NC(CN1CCOCC1)=O)=O)COC(C(C)(C)C)=O)C | C35H49N3O7
solvent | MeOH water | 10 mL | CO.O
solvent | MeOH | 100 mL | CO | CH4O
catalyst | Pd/C | 200 mg | [Pd] | Pd
product | (S)-4-Methyl-2-((S)-2-(2-morpholinoacetamido)-4-phenyl-N-((pivaloyloxy)methyl)butanamido)pentanoic acid | 345 mg, 92% | CC(C[C@@H](C(=O)O)N(C([C@H](CCC1=CC=CC=C1)NC(CN1CCOCC1)=O)=O)COC(C(C)(C)C)=O)C | C28H43N3O7
